US08497281B2
5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-1-methyl-1,3-dihydro-benzoimidazol-2-one
The title compound is prepared from 1-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 15% of theory; LC (method 4): tR=1.92 min; Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | 1-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid | CN1C(NC2=C1C=CC(=C2)C(=O)O)=O | C9H8N2O3
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-1-methyl-1,3-dihydro-benzoimidazol-2-one | Yield: 15% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C3=CC1=C(N(C(N1)=O)C)C=C3 | C22H23N3O2
